US06426422B1
5-Cyano-1-(4-fluorophenyl)-1-(3-dimethylaminopropyl)-1,3-dihydro-isobenzofuran (Citalopram, free base)
5-Carboxy-1-(4-fluorophenyl)-1-(3-dimethylaminopropyl)-1,3-dihydro-isobenzofuran (5 g, 0.015 mole) and sulfamide (1.65 g, 0.017 mole) were dissolved in sulfolane (15 mL). Thionylchloride (2.25 g, 0.019 mole) was added at room temperature and the temperature of the reaction mixture was raised to 130° C. for 2 hours. The reaction mixture was allowed to cool to 75° C. and water (25 mL) was added. The temperature was held at 75° C. for 15 min, and then the reaction mixture was cooled to room temperature. pH was ajusted to 9 with ammonium hydroxide and then n-heptane (75 mL) was added. The temperature was raised to 70° C. and the hot n-heptane layer was isolated from which the title compound crystallised on cooling. Yield 3.77 g. Purity (HPLC peak area)>97%.

reactant | 5-Carboxy-1-(4-fluorophenyl)-1-(3-dimethylaminopropyl)-1,3-dihydro-isobenzofuran | 0.015 mole, 5 g | C(=O)(O)C=1C=C2COC(C2=CC1)(CCCN(C)C)C1=CC=C(C=C1)F | C20H22FNO3
reactant | sulfamide | 0.017 mole, 1.65 g | S(=O)(=O)(N)N | H4N2O2S
reactant | Thionylchloride | 0.019 mole, 2.25 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfolane | 15 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | n-heptane | CCCCCCC | C7H16
solvent | n-heptane | 75 mL | CCCCCCC | C7H16
solvent | water | 25 mL | O | H2O
product | 5-Cyano-1-(4-fluorophenyl)-1-(3-dimethylaminopropyl)-1,3-dihydro-isobenzofuran | C(#N)C=1C=C2COC(C2=CC1)(CCCN(C)C)C1=CC=C(C=C1)F | C20H21FN2O
